US09108983B2
Step A: 2-Iodo-5-methyl-benzoic acid
3-Methylbenzoic acid (6.12 g; 45 mmol), iodobenzene diacetate (14.49 g; 45 mmol), tetrabutylammonium iodide (16.62 g, 45 mmol), iodine (11.43 g; 45 mmol) and diacetoxypalladium (0.5 g; 2.2 mmol) are dissolved in 1,2-dichloroethane, and then the mixture is heated in a sealed tube at 85° C. for 1 hour and 45 minutes. The cooled solution is purified by chromatography over silica gel using dichloromethane and methanol as eluants to yield the title compound.

reactant | 3-Methylbenzoic acid | 45 mmol, 6.12 g | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | iodobenzene diacetate | 45 mmol, 14.49 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | iodine | 45 mmol, 11.43 g | II | I2
catalyst | tetrabutylammonium iodide | 45 mmol, 16.62 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | diacetoxypalladium | 2.2 mmol, 0.5 g | C(C)(=O)O[Pd]OC(C)=O
product | 2-Iodo-5-methyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)C | C8H7IO2
